datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([O:2][O:3][H:7])[H:6])([H:4])[H:5].[H:8]>>[C:0](=[C:1]([O:2][O:3])[H:6])([H:4])[H:5].[H:7][H:8],7.78224
[C:0](#[C:1][C:2](=[C:3]([C:4]([H:9])([H:10])[H:11])[C:5]#[C:6][H:12])[H:8])[H:7].[C:13]([C:14]([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])([H:22])([H:23])[H:24]>>[C:0](#[C:1][C:2]([C:3]([C:4]([H:9])([H:10])[H:11])([C:5]#[C:6][H:12])[C:14]([C:13]([H:22])([H:23])[H:24])([C:15]([H:25])([H:26])[H:27])[c:16]1[c:17]([H:28])[c:18]([H:29])[c:19]([H:30])[c:20]([H:31])[c:21]1[H:32])[H:8])[H:7],30.8779
[C:0](=[C:1]=[C:2]1[C:3]([H:9])=[C:4]([H:10])[C:5]([H:11])[C:6]1([H:12])[H:13])([H:7])[H:8]>>[C:0](=[C:1]=[C:2]1[C:3]([H:9])=[C:4]([H:10])[C:5]([H:11])=[C:6]1[H:13])([H:7])[H:8].[H:12],195.3928
[C:0]([O:1])([H:2])([H:3])[H:4].[C:5](=[O:6])[H:7]>>[C:0]([O:1][C:5](=[O:6])[H:7])([H:2])([H:3])[H:4],0.0
[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])[C:4]([O:5][O:6][H:17])([H:15])[H:16])([H:10])[H:11])([H:7])([H:8])[H:9].[O:18][O:19]>>[C:0]([C:1]([C:2]([C:3]([H:12])([H:13])[H:14])([C:4]([O:5][O:6][H:17])([H:15])[H:16])[O:18][O:19])([H:10])[H:11])([H:7])([H:8])[H:9],-1.7459832
[C:0](#[C:1][C:2](=[C:3]([H:7])[H:8])[C:4](=[C:5]([H:10])[H:11])[H:9])[H:6].[H:12]>>[C:0](#[C:1][C:2]([C:3]([H:7])[H:8])([C:4](=[C:5]([H:10])[H:11])[H:9])[H:12])[H:6],17.9912
[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])([H:3])[H:4].[H:8]>>[C:0](=[C:1]([N:2]([H:6])[H:7])[H:5])[H:4].[H:3][H:8],47.136944
[C:0]([C:1]([O:2][c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:12])[H:13])([H:9])([H:10])[H:11]>>[C:0](=[C:1]([H:12])[H:13])([H:10])[H:11].[O:2]=[C:3]1[C:4]([H:9])([H:14])[C:5]([H:15])=[C:6]([H:16])[C:7]([H:17])=[C:8]1[H:18],225.936
[C:0]([C:1]([C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:15])[c:5]([H:16])[c:6]([H:17])[c:7]([H:18])[c:8]1[H:19])[H:14])[H:12])([H:9])([H:10])[H:11].[H:13],144.030016
[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])=[C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[H:8])([H:6])[H:7].[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[H:11])([C:4]([C:5]([H:13])([H:14])[H:15])[H:12])[C:16]([C:17]([H:20])([H:21])[H:22])([H:18])[H:19])[H:8])([H:6])[H:7],30.2922
[C:0]([C:1]([C:2]([C:3](=[C:4]([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18])[H:14])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9]>>[C:0]1([H:8])([H:9])[C:1]([H:10])([H:11])[C:2]([H:12])([H:13])[C:3]([H:14])[C:4]1([C:5]([H:15])([H:16])[H:17])[C:6](=[C:7]([H:19])[H:20])[H:18],83.0524
[H:14].[O:0]=[C:1]([c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13])[H:8]>>[H:8][H:14].[O:0]=[C:1][c:2]1[c:3]([H:9])[c:4]([H:10])[c:5]([H:11])[c:6]([H:12])[c:7]1[H:13],10.0416
[C:0](=[S:1])([H:2])[H:3].[C:4]([C:5]([S:6])([H:10])[H:11])([H:7])([H:8])[H:9]>>[C:0]([S:1])([H:2])([H:3])[S:6][C:5]([C:4]([H:7])([H:8])[H:9])([H:10])[H:11],-9.49768
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9][S:10][H:13])([H:11])[H:12]>>[C:0](=[C:1][C:2](=[S:3])[H:7])([H:4])[H:5].[H:6][C:9](=[C:8]([H:11])[H:12])[S:10][H:13],28.4512
[C:8]([S:9][H:12])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])([H:5])[H:6])[H:4]>>[H:5][C:8]([S:9][H:12])([H:10])[H:11].[S:0]=[C:1]([C:2]([S:3][H:7])[H:6])[H:4],5.8576
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[H:6])[H:5].[C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:5].[H:6][C:13](=[C:14]=[C:15]([H:17])[H:18])[H:16],26.7776
[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])[H:6].[C:16]([C:17]([C:18]([C:19]([C:20]([C:21]([C:22]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])([H:11])[H:12])([H:9])[H:10])([H:7])[H:8])([H:5])([H:6])[C:16]([C:17]([C:18]([C:19]([C:20]([C:21]([C:22]([H:35])([H:36])[H:37])([H:33])[H:34])([H:31])[H:32])([H:29])[H:30])([H:27])[H:28])([H:25])[H:26])([H:23])[H:24],0.0
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])([H:4])[H:5].[H:10]>>[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[H:7])[H:6])[H:5].[H:4][H:10],51.21216
[C:0]([C:1]([C:2]([O:3][O:4][H:11])([H:9])[H:10])[H:8])([H:5])([H:6])[H:7]>>[C:0]([C:1]([C:2]([O:3])([H:9])[H:10])([O:4][H:11])[H:8])([H:5])([H:6])[H:7],101.671
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:23])([H:24])[H:25]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([O:5][O:6][H:23])([H:16])[H:17])([H:14])[H:15])[H:10])([H:7])([H:8])[H:9].[C:18]([C:19]([C:20]([C:21]([H:29])([H:30])[H:31])([C:22]([H:32])([H:33])[H:34])[H:28])([H:26])[H:27])([H:24])[H:25],85.47912
